US07115598B2
1-(4-Chloro-3-fluoro-phenyl)-ethylamine (2.0 g, 11.5 mmol) was dissolved in pyridine (20 ml) and place at 0° C. under nitrogen atmosphere. Then, trifluoroacetic anhydride (3.63 g, 17.2 mmol) was added in one shot. The reaction was allowed to reach room temperature and stirred for 16 h. The solvent was removed under vacuum and the crude was extracted with ethyl acetate-sodium hydroxide 1N. The organic layer was collected and extracted again using hydrochloric acid (1N) and brine. The organic layer was collected, dried with sodium sulfate, filtered and concentrated under vacuum to produce a crude, which it was chromatograph over silica gel using 50% hexane-ethyl acetate as solvent to yield 1.374 g of N-[1-(4-chloro-3-fluoro-phenyl)-ethyl]-2,2,2-trifluoro-acetamide. 1H NMR (400 MHz, Cl3CD) δ 7.49 (d, J=7.29 Hz, 1H), 7.35 (t, J=7.92 Hz, 1H), 7.11 (dd, J=1.93, 9.86 Hz, 1H), 7.04 (dd, J=1.93, 7.29 Hz, 1H), 5.06 (m, 1H), 1.53 (d, J=7.07, 3H).

reactant | 1-(4-Chloro-3-fluoro-phenyl)-ethylamine | 11.5 mmol, 2.0 g | ClC1=C(C=C(C=C1)C(C)N)F | C8H9ClFN
reactant | trifluoroacetic anhydride | 17.2 mmol, 3.63 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-[1-(4-chloro-3-fluoro-phenyl)-ethyl]-2,2,2-trifluoro-acetamide | 1.374 g | ClC1=C(C=C(C=C1)C(C)NC(C(F)(F)F)=O)F | C10H8ClF4NO
